US07250410B2
3,5-diphenyl-8-ethoxy-1-ethyl-7-methoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one, IIdk.
By replacing 5-(4-bromophenyl)-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one (XXIIaf) in example IIba by 3,5-diphenyl-8-ethoxy-7-methoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one (XXIIba), and methyl iodide by ethyl iodide, and proceeding in the same manner, the abovenamed product is obtained. Yield: 65%. M: 178–180° C. 1H-NMR (CDCl3, 300 MHz): d 1.06–1.11 (m, 3H, NCH2CH3), 1.55–1.59 (m, 3H, OCH2CH3), 3.77 (s, 3H, OCH3), 4.19–4.26 (m, 2H, OCH2), 4.01 (AB system, ? d=0.70, JAB=13.7, 2H, NCH2), 6.77 (s, 1H Ar), 6.92 (s, 1H Ar), 7.35–7.74 (m, 10H Ar).

reactant | 3,5-diphenyl-8-ethoxy-7-methoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one | C1(=CC=CC=C1)C1C(NC2=C(C(=N1)C1=CC=CC=C1)C=C(C(=C2)OCC)OC)=O | C24H22N2O3
reactant | methyl iodide | CI | CH3I
reactant | ethyl iodide | C(C)I | C2H5I
product | 3,5-diphenyl-8-ethoxy-1-ethyl-7-methoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one | Yield: 65% | C1(=CC=CC=C1)C1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=C(C(=C2)OCC)OC)CC)=O | C26H26N2O3
